US04012367
12.54 Parts of N-t-butoxycarbonyl-L-methionyl-L-aspartyl-D-alanine amide is dissolved in 107 parts by volume glacial acetic acid and 51.66 parts by volume of a 5.6 M solution of HCl/dioxane. The resultant mixture is stirred for 20 minutes and then stripped under reduced pressure to afford a solid. The solid is triturated with ethyl ether, cooled, and the resultant product washed with cold ethyl ether and vacuum dried. This solid is purified by countercurrent distribution to afford L-methionyl-L-aspartyl-D-alanine amide hydrochloride hydrated with 2/3 mole of water per mole, and represented by the following formula.

reactant | N-t-butoxycarbonyl-L-methionyl-L-aspartyl-D-alanine amide | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C)C(=O)N | C17H30N4O7S
reactant | water | 2/3 mole | O | H2O
reactant | HCl dioxane | Cl.O1CCOCC1
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-methionyl-L-aspartyl-D-alanine amide hydrochloride | Cl.N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C)C(=O)N | InChI=1S/C12H22N4O5S.ClH/c1-6(10(14)19)15-12(21)8(5-9(17)18)16-11(20)7(13)3-4-22-2;/h6-8H,3-5,13H2,1-2H3,(H2,14,19)(H,15,21)(H,16,20)(H,17,18);1H/t6-,7+,8+;/m1./s1
